* simple circuit 5
* includes all the components {R,L,C,V,I}

R1 1 2 1
R2 2 0 2
L1 2 3 1e-6
C1 3 0 1e-6

V1 1 0 SIN 0 5 1e6 0
I1 2 0 PULSE 0 2 1e-6 0 1e-6 0 1e-6




